US06706663B2
Preparation of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-[1-(hydroxymethyl)-2-methylpropyl]-1,2-benzisothiazole-3-carboxamide
To a solution of 2-amino-3-methyl-1-butanol (1.39 g, 13.5 mmol) in anhydrous tetrahydrofuran at 0° C. is added dropwise a solution of 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid chloride (2.10 g, 5.39 mmol) in tetrahydrofuran. The resultant mixture is stirred 7.5 hours at ambient temperature, diluted with diethyl ether, washed with 1M aqueous hydrochloric acid, saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue is chromatographed on silica gel with hexanes-ethyl acetate to afford the title compound as a solid (2.12 g, 86.2%, mp 120° C.) which is identified by NMR spectral analysis.

reactant | 2-amino-3-methyl-1-butanol | 13.5 mmol, 1.39 g | NC(CO)C(C)C | C5H13NO
reactant | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-carboxylic acid chloride | 5.39 mmol, 2.10 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)Cl)C1)=O | C14H7ClF3N3O3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-N-[1-(hydroxymethyl)-2-methylpropyl]-1,2-benzisothiazole-3-carboxamide | 2.12 g, 86.2% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(=O)NC(C(C)C)CO)C1)=O | C19H19F3N4O4S
